US08242260B2
To a solution of 1-bromo-2-chloro-3-nitrobenzene (3.0 g, 12.7 mmol) in MeOH (127 ml) was added Zn dust (8.30 g, 127 mmol) followed by NH4Cl (6.79 g, 127 mmol) which resulted in a significant exotherm. The heterogeneous reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was filtered through a pad of Celite and concentrated to an off-white solid. To this solid was added EtOAc and the resulting mixture was sonicated for 10 minutes. The mixture was filtered through Celite and washed with EtOAc. The combine filtrates were concentrated in vacuo to afford 2.17 g (10.5 mmol, 79%) of 3-bromo-2-chloroaniline: LCMS(m/z): 205.9 (MH+); tR=0.87 minute: 1H NMR (400 MHz, CDCl3) δ 6.62-6.66 (m, 1H) 6.87 (t, J=8.0 Hz, 1H) 6.97 (d, J=7.8 Hz, 1H) 7.22 (d, J=9.0 Hz, 1H).

reactant | 1-bromo-2-chloro-3-nitrobenzene | 12.7 mmol, 3.0 g | BrC1=C(C(=CC=C1)[N+](=O)[O-])Cl | C6H3BrClNO2
reactant | NH4Cl | 127 mmol, 6.79 g | [NH4+].[Cl-]
solvent | MeOH | 127 ml | CO | CH4O
catalyst | Zn | 127 mmol, 8.30 g | [Zn] | Zn
product | 3-bromo-2-chloroaniline | 10.5 mmol, 2.17 g, 79% | BrC=1C(=C(N)C=CC1)Cl | C6H5BrClN
